US07652049B2
Sodium hydride (60% dispersion in mineral oil, 8.1 mg, 0.202 mmol) was added to a stirred solution of (4S,5S)-4-methyl-5-(4-methyl-1,3-thiazol-2-yl)-1,3-oxazolidin-2-one (33.4 mg, 0.168 mmol) in dry THF (1 mL) at room temperature under N2. The reaction was stirred for 15 min then a solution of 2′-(bromomethyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl (81.0 mg, 0.202 mmol) in dry THF (2 mL) was added by cannula. The reaction was stirred at room temperature overnight. Saturated NH4Cl (10 mL) was added and the mixture was extracted with EtOAc (3×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 25×160 mm, 0-70% EtOAc in hexanes gradient) and chiral HPLC (IA column, 20×250 mm, 5% i-PrOH in heptane) to afford (4S,5S)-3-{[4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-5-(4-methyl-1,3-thiazol-2-yl)-1,3-oxazolidin-2-one. Rf=0.18 (20% EtOAc in hexanes). LCMS calc.=523.2; found=523.1 (M+1)+. 1H NMR (500 MHz, CDCl3, 1:1 mixture of atropisomers) δ 7.68 (s, 0.5H), 7.63 (s, 0.5H), 7.59 (d, J=8.0 Hz, 1H), 7.32 (d, J=7.9 Hz, 1H), 6.99 (d, J=8.5 Hz, 0.5H), 6.95 (d, J=8.5 Hz, 0.5H), 6.88 (s, 1H), 6.68 (d, J=5.0 Hz, 0.5H), 6.66 (d, J=4.9 Hz, 0.5H), 5.70 (d, J=8.3 Hz, 0.5H), 5.55 (d, J=8.2 Hz, 0.5H), 4.72 (d, J=15.9 Hz, 0.5H), 4.64 (d, J=15.9 Hz, 0.5H), 4.20 (d, J=15.9 Hz, 0.5H), 3.95 (d, J=15.9 Hz, 0.5H), 3.91-3.83 (m, 1H), 3.75 (s, 1.5H), 3.74 (s, 1.5H), 3.23-3.15 (m, 1H), 2.40 (s, 3H), 1.26-1.18 (m, 6H), 0.65 (d, J=6.5 Hz, 1.5H), 0.55 (d, J=6.5 Hz, 1.5H).

reactant | Sodium hydride | 0.202 mmol, 8.1 mg | [H-].[Na+]
reactant | (4S,5S)-4-methyl-5-(4-methyl-1,3-thiazol-2-yl)-1,3-oxazolidin-2-one | 0.168 mmol, 33.4 mg | C[C@@H]1NC(O[C@@H]1C=1SC=C(N1)C)=O | C8H10N2O2S
reactant | 2′-(bromomethyl)-4-fluoro-5-isopropyl-2-methoxy-4′-(trifluoromethyl)biphenyl | 0.202 mmol, 81.0 mg | BrCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=C(C(=C1)C(C)C)F)OC | C18H17BrF4O
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (4S,5S)-3-{[4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-methyl-5-(4-methyl-1,3-thiazol-2-yl)-1,3-oxazolidin-2-one | FC1=CC(=C(C=C1C(C)C)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C=1SC=C(N1)C)=O)OC | C26H26F4N2O3S
